US06559162B2
(i) 4-[4-[(3-Benzyl-3-azabicyclo[3.2.1]oct-8-yl)(methyl)amino]-1-(3,4-dimethoxyphenoxy)butyl]benzonitrile
A mixture of 3-benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine (Preparation B; 1.3 g, 5.95 mmol), 4-(4-cyanophenyl)-4-(3,4-dimethoxyphenoxy)butyl methanesulfonate (Preparation I(iii); 2.41 g, 5.95 mmol), and potassium carbonate (822 mg, 5.95 mmol) in DMF (25 mL) was heated at 90° C. under nitrogen overnight. The mixture was partitioned with water (50 mL) and diethyl ether (40 mL). The aqueous layer was extracted with diethyl ether (2×40 mL). The combined organic extracts were washed with brine (2×30 mL), dried (Na2SO4), filtered and then concentrated in vacuo. The residue was chromatographed on silica gel, eluting with dichloromethane:methanol (98:2), to afford 860 mg (27%) of the sub-title compound.

reactant | 3-benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine | 5.95 mmol, 1.3 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2NC | C15H22N2
reactant | 4-(4-cyanophenyl)-4-(3,4-dimethoxyphenoxy)butyl methanesulfonate | 5.95 mmol, 2.41 g | CS(=O)(=O)OCCCC(OC1=CC(=C(C=C1)OC)OC)C1=CC=C(C=C1)C#N | C20H23NO6S
reactant | potassium carbonate | 5.95 mmol, 822 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-[4-[(3-Benzyl-3-azabicyclo[3.2.1]oct-8-yl)(methyl)amino]-1-(3,4-dimethoxyphenoxy)butyl]benzonitrile | 860 mg, 27% | C(C1=CC=CC=C1)N1CC2CCC(C1)C2N(CCCC(OC2=CC(=C(C=C2)OC)OC)C2=CC=C(C#N)C=C2)C | C34H41N3O3
